US03959475
Friedel-Crafts acylation of m-bromoanisole with benzoyl chloride and p-fluorobenzoyl chloride provides 2-bromo-4-methoxybenzophenone, m.p. 83°-84°, and 2-bromo-4'-fluoro-4-methoxybenzophenone, m.p. 79°-81°, respectively, which are reduced with sodium borohydride to 2-bromo-4-methoxybenzhydrol, b.p. 160° (0.05 mm.), and 2-bromo-4'-fluoro-4-methoxybenzhydrol, a liquid. Acylation of benzene with 2-bromo-5-chlorobenzoyl chloride, 2-bromo-4,5-methylene dioxybenzoyl chloride, and 2-bromo-4,5-dimethoxybenzoyl chloride provides 2-bromo-5-chlorobenzophenone, 2-bromo-4,5-methylene-dioxybenzophenone, and 2-bromo-4,5-dimethoxybenzophenone, m.p. 76°-77°, which are reduced with sodium borohydride to 2-bromo-5-chlorobenzhydrol, 2-bromo-4,5-methylenedioxybenzhydrol, and 2-bromo-4,5dimethoxybenzhydrol, m.p. 83°-85°. Acylation of anisole with 2-bromobenzoyl chloride provides 2-bromo-4'-methoxybenzophenone, m.p. 93°-95°, which is reduced to 2-bromo-4'-methoxybenzhydrol, m.p. 64°-65°. Reaction of 2-bromo-4-methylbenzaldehyde and phenylmagnesium bromide provides 2-bromo-4-methylbenzhydrol.

reactant | 2-bromo-4'-methoxybenzhydrol | BrC1=C(C(C2=CC=C(C=C2)OC)O)C=CC=C1 | C14H13BrO2
reactant | 2-bromo-4-methylbenzaldehyde | BrC1=C(C=O)C=CC(=C1)C | C8H7BrO
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
product | 2-bromo-4-methylbenzhydrol | BrC1=C(C(C2=CC=CC=C2)O)C=CC(=C1)C | C14H13BrO
